US04931581
Preparation of benzo-1,2,3-thiadiazole-7-carboxylic acid
100 g (0.51 mol) of 7-methoxycarbonylbenzo-1,2,3-thiadiazole are suspended in 1000 ml of water, and then 310 ml of 2N sodium hydroxide solution and 5 ml of dioxane are added. The reaction mixture is heated to 40° C., is stirred for 4 hours at that temperature and is then cooled to 10° C. A further 1000 ml of water are added and the batch is neutralised with 310 ml of 2N hydrochloric acid. The resulting precipitate is isolated by filtration, lightly dried in a current of air and then dissolved in tetrahydrofuran and the solution is dried over magnesium sulfate, filtered and concentrated. The crystals are suspended in hexane, isolated by filtration and dried.

reactant | 7-methoxycarbonylbenzo-1,2,3-thiadiazole | 0.51 mol, 100 g | COC(=O)C1=CC=CC=2N=NSC21 | C8H6N2O2S
reactant | sodium hydroxide | 2N, 310 ml | [OH-].[Na+]
reactant | dioxane | 5 ml | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | 2N, 310 ml | Cl | ClH
solvent | water | 1000 ml | O | H2O
solvent | water | 1000 ml | O | H2O
product | benzo-1,2,3-thiadiazole-7-carboxylic acid | S1N=NC2=C1C(=CC=C2)C(=O)O | C7H4N2O2S
